US07501430B2
21b: Preparation of 4-{6-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]imidazo[2,1-b][1,3]thiazol-5-yl}-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine
((R)-3-(4-{6-[3-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-imidazo[2,1-b]thiazol-5-yl}-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.15 g, 0.269 mmol) was dissolved in 2 mL of ethyl acetate and treated with 2 ml of 3.0 M HCl in ethyl acetate at room temperature (RT) overnight. Solid product was filtered, washed ethyl acetate and dried under vacuum overnight to provide 0.135 g (100%) of the title compound as a yellow solid. M.p.=203-207° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 9.35 (br. s, 1H), 8.21 (s, 1H), 8.12 (d, J=6.0 Hz, 1H), 8.0 (d, J=7.6 Hz, 1H), 7.82-7.80 (m, 1H), 7.67 (t, J=8.2 Hz, 1H), 7.54 (s, 1H), 6.90 (bs, 1H), 6.48 (d, J=5.6 Hz, 1H), 4.2 (br. s, 1H), 3.40 (d, J=10.8 Hz, 1H), 3.13 (d, 1H), 2.92-2.87 (m, 2H), 2.65 (s, 3H), 2.00-1.97 (m, 1H), 1.96-1.89 (m, 1H), 1.89-1.80 (bs, 1H), 1.64-1.57 (m, 1H); LCMS: 459 [M+H]. calc. for C23H22N8OS.2.3HCl: C, 50.93; H, 4.52; N, 20.66. Found C, 50.93; H, 4.42; N, 19.30.

reactant | (R)-3-(4-{6-[3-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-imidazo[2,1-b]thiazol-5-yl}-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.269 mmol, 0.15 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)C2=NOC(=N2)C | C28H30N8O3S
reactant | HCl | 3.0 M, 2 ml | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 4-{6-[3-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]imidazo[2,1-b][1,3]thiazol-5-yl}-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine | 0.135 g, 100% | CC1=NC(=NO1)C=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CNCCC1 | C23H22N8OS
